US03975384
5-Carbethoxy-4-(1,1-dioxido-thiomorpholino)-6-methyl-2-piperazino-pyrimidine
2.0 gm (0.006 mol) of 5-carbethoxy-2-chloro-4-(1,1-dioxido-thiomorpholino)-6-methyl-pyrimidine were added in small portions to a boiling solution of 5.2 gm (0.06 mol) of piperazine in 70 ml of dioxane, and the mixture was refluxed for 20 minutes. The reaction mixture was then poured into 150 ml of water, and the aqueous mixture was extracted with chloroform. The organic extract was washed with water, dried with sodium sulfate, and the solvent was removed in vacuo. The residue was recrystallized from ethanol/petroleum ether. Yield: 1.7 gm (74% of theory); m.p. 154°-159°C.

reactant | 5-carbethoxy-2-chloro-4-(1,1-dioxido-thiomorpholino)-6-methyl-pyrimidine | 0.006 mol, 2.0 gm | C(=O)(OCC)C=1C(=NC(=NC1C)Cl)N1CCS(CC1)(=O)=O | C12H16ClN3O4S
reactant | piperazine | 0.06 mol, 5.2 gm | N1CCNCC1 | C4H10N2
reactant | water | 150 ml | O | H2O
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 5-Carbethoxy-4-(1,1-dioxido-thiomorpholino)-6-methyl-2-piperazino-pyrimidine | C(=O)(OCC)C=1C(=NC(=NC1C)N1CCNCC1)N1CCS(CC1)(=O)=O | C16H25N5O4S
